US06794403B2
Step b) 7-Bromo-2-(3-fluoro-4-methoxyphenyl)-5-methoxy-1,3-benzoxazole
A suspension of 2-bromo-6-[(3-fluoro-4-methoxybenzoyl)amino]-4-methoxyphenyl 3-fluoro-4-methoxybenzoate (46.0 g, 88.1 mmol), p-toluenesulfonic acid monohydrate (33.5 g, 177.2 mmol) and anhydrous p-xylene (1 l) was refluxed for 3 h with continuous water removal (Dean Stark Trap). The initial suspension turned into a brown solution at refluxing temperature. The solids were filtered off and washed with ethyl ether. The solids were suspended in ethyl ether (200 mL), stirred for 10 min, filtered off and dried to give a tan solid (25.1 g, m.p. 175-177° C.). The ethyl ether layer was concentrated to 20 mL and 2.5 g of additional product was obtained (90% overall yield). MS m/e 352 (M+H)+.

reactant | 2-bromo-6-[(3-fluoro-4-methoxybenzoyl)amino]-4-methoxyphenyl 3-fluoro-4-methoxybenzoate | 88.1 mmol, 46.0 g | FC=1C=C(C(=O)OC2=C(C=C(C=C2NC(C2=CC(=C(C=C2)OC)F)=O)OC)Br)C=CC1OC | C23H18BrF2NO6
reactant | p-toluenesulfonic acid monohydrate | 177.2 mmol, 33.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-xylene | 1 l | CC=1C=CC(=CC1)C | C8H10
solvent | water | O | H2O
product | 7-Bromo-2-(3-fluoro-4-methoxyphenyl)-5-methoxy-1,3-benzoxazole | 25.1 g | BrC1=CC(=CC=2N=C(OC21)C2=CC(=C(C=C2)OC)F)OC | C15H11BrFNO3
